US07053089B2
Benzyl 4-[(1,3-thiazol-2-ylamino)methyl]-1-piperidinecarboxylate
The title compound was prepared as described in EXAMPLE 25, except using benzyl 4-formyl-1-piperidinecarboxylate (300 mg, 1.21 mmol) and 2-amino-1,3-thiazole (133 mg, 1.33 mmol) as starting materials to give the title compound as a yellow oil.

reactant | benzyl 4-formyl-1-piperidinecarboxylate | 1.21 mmol, 300 mg | C(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H17NO3
reactant | 2-amino-1,3-thiazole | 1.33 mmol, 133 mg | NC=1SC=CN1 | C3H4N2S
product | Benzyl 4-[(1,3-thiazol-2-ylamino)methyl]-1-piperidinecarboxylate | S1C(=NC=C1)NCC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C17H21N3O2S
